US05968982
14-Bromo-2,2-dichlorotetradecanoic acid (2)
Analogously to example 1 from 50.0 g (152 mmol) 1, 12-dibromododecane and 39.3 g (305 mmol) dichloroacetic acid. Yield 11.9 g (21%), melting point 59-60° C.

reactant | 1, 12-dibromododecane | 152 mmol, 50.0 g | BrCCCCCCCCCCCCBr | C12H24Br2
reactant | dichloroacetic acid | 305 mmol, 39.3 g | ClC(C(=O)O)Cl | C2H2Cl2O2
product | 14-Bromo-2,2-dichlorotetradecanoic acid | BrCCCCCCCCCCCCC(C(=O)O)(Cl)Cl | C14H25BrCl2O2
